US04894386
j. 4-[5-(Butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid
A solution of methyl 4-[5-(butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoate (0.23 g) in a combination of methanol (2.5 ml), tetrahydrofuran (2.5 ml), and water (1.5 ml) was treated with lithium hydroxide monohydrate (0.14 g). The mixture was stirred for 18 hr and the organic solvents evaporated. The resultant aqueous solution was acidified with 10% (v/v) hydrochloric acid. The ivory precipitate which formed was collected by filtration, washed with water, and dried under vacuum to give the title compound (0.21 g, 94%) as a pale pink powder: mp 92°-95°.

reactant | methyl 4-[5-(butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoate | 0.23 g | C(CCC)NC(=O)CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H30N2O4
reactant | methanol | 2.5 ml | CO | CH4O
reactant | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.14 g | O.[OH-].[Li+]
solvent | water | 1.5 ml | O | H2O
product | 4-[5-(Butylcarbamoyl)methyl-1-methylindol-3-ylmethyl]-3-methoxybenzoic acid | 0.21 g, 94% | C(CCC)NC(=O)CC=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)O)C=C1)OC | C24H28N2O4
